US07449456B2
6-(4-Aminophenyl)-N-methylmorpholin-3-one was treated in the same manner as the reduction shown in Reference Example 2 and further treated with 4 M hydrogen chloride/ethyl acetate solution in ethyl acetate to obtain 4-(4-methylmorpholin-2-yl)phenylamine dihydrochloride. F: 193.

reactant | 6-(4-Aminophenyl)-N-methylmorpholin-3-one | NC1=CC=C(C=C1)C1OCC(N(C1)C)=O | C11H14N2O2
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-methylmorpholin-2-yl)phenylamine dihydrochloride | Cl.Cl.CN1CC(OCC1)C1=CC=C(C=C1)N | InChI=1S/C11H16N2O.2ClH/c1-13-6-7-14-11(8-13)9-2-4-10(12)5-3-9;;/h2-5,11H,6-8,12H2,1H3;2*1H
